US07148240B2
For example, 1-(2-chloroethyl)-4-dicyclohexylmethylpiperazine can be prepared by reacting N-dicyclohexylmethylpiperazine with ethylene oxide, to form 1-(2-hydroxyethyl)-4-dicyclohexylmethylpiperazine, which is subsequently treated with a chlorinating agent, such as thionyl chloride, to produce the desired compound.

reactant | 1-(2-chloroethyl)-4-dicyclohexylmethylpiperazine | ClCCN1CCN(CC1)C(C1CCCCC1)C1CCCCC1 | C19H35ClN2
reactant | N-dicyclohexylmethylpiperazine | C1(CCCCC1)C(N1CCNCC1)C1CCCCC1 | C17H32N2
reactant | ethylene oxide | C1CO1 | C2H4O
product | 1-(2-hydroxyethyl)-4-dicyclohexylmethylpiperazine | OCCN1CCN(CC1)C(C1CCCCC1)C1CCCCC1 | C19H36N2O
